US06071925
(RS)-8-(6-Chloro-1,2,3,4-tetrahydro-naphthalen-1-yl)-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one hydrochloride (1:1)
The title compound, m.p.>250° C. and MS: m/e=396.2 (M+H+) was prepared in accordance with the general method of example 11 from 6-chloro-3,4-dihydro-1(2H)-naphthalenone oxime and 1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one.

reactant | 6-chloro-3,4-dihydro-1(2H)-naphthalenone oxime | ClC=1C=C2CCCC(C2=CC1)=NO | C10H10ClNO
reactant | 1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one | C1(=CC=CC=C1)N1CNC(C12CCNCC2)=O | C13H17N3O
product | (RS)-8-(6-Chloro-1,2,3,4-tetrahydro-naphthalen-1-yl)-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one hydrochloride | Cl.ClC=1C=C2CCCC(C2=CC1)N1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1 | InChI=1S/C23H26ClN3O.ClH/c24-18-9-10-20-17(15-18)5-4-8-21(20)26-13-11-23(12-14-26)22(28)25-16-27(23)19-6-2-1-3-7-19;/h1-3,6-7,9-10,15,21H,4-5,8,11-14,16H2,(H,25,28);1H
